US08030438B2
(3) Synthesis of 3,4-bis(diethoxyphosphoryl)-[2,2′]bithiophene
3,4-bis(diethoxyphosphoryl)-2-iodothiophene, different types of palladium catalysts (0.05 equivalents, commercially available products) indicated in the following Table 5 and commercially available copper(I) cyanide (0.20 equivalents) were dissolved in toluene, to which 2-tributylstannylthiophene (1.2 equivalents) was added at room temperature. Thereafter, the reaction mixture was heated to 70° C. and stirred for 8.5 to 10 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a potassium fluoride aqueous solution was added, followed by stirring for 2 hours. The resulting solid was removed by celite filtration and the filtrate was extracted with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a silica gel column (ethyl acetate:methanol=15:1) to obtain the specified substances.

reactant | 3,4-bis(diethoxyphosphoryl)-2-iodothiophene | C(C)OP(=O)(OCC)C1=C(SC=C1P(=O)(OCC)OCC)I | C12H21IO6P2S
reactant | copper(I) cyanide | 0.20 equivalents | [Cu]C#N
reactant | 2-tributylstannylthiophene | 1.2 equivalents | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
catalyst | palladium | [Pd] | Pd
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,4-bis(diethoxyphosphoryl)-[2,2′]bithiophene | C(C)OP(=O)(OCC)C1=C(SC=C1P(=O)(OCC)OCC)C=1SC=CC1 | C16H24O6P2S2
